US07390835B2
Step B: 1-(4-Chlorophenyl)-2-methyl-2-hydroxy-propan-1-one
To a solution of 3.4 g of 1-(4-chlorophenyl)-2-methyl-2-trimethylsilyloxy-propan-1-one in 10 mL of methanol 4 mL of 2N HCl was added and the mixture was stirred for 3 hr. The reaction was diluted with CH2Cl2 and washed with water, brine, dried and concentrated to give the title compound which was used in the next step without purification. 1H NMR: (500 MHz, CDCl3): δ 1.65 (s, 6H), 7.47 (d, 2H), 8.03 (d, 2H)

reactant | 1-(4-chlorophenyl)-2-methyl-2-trimethylsilyloxy-propan-1-one | 3.4 g | ClC1=CC=C(C=C1)C(C(C)(O[Si](C)(C)C)C)=O | C13H19ClO2Si
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(4-Chlorophenyl)-2-methyl-2-hydroxy-propan-1-one | ClC1=CC=C(C=C1)C(C(C)(O)C)=O | C10H11ClO2
